US09120822B2
Manganese dioxide (299 mg, 4.3 mmol, 10.0 eq) is added at room temperature to a stirred solution of 5-fluoro-4-hydroxymethyl-6-methoxy-quinolin-3-ol (120 mg, 0.43 mmol, 1.0 eq) in acetone (12 mL) and the resulting mixture is stirred at 35° C. for 17 hours. The solid is filtered off, washed with acetone (3×10 mL) and the filtrate is concentrated to give a residue that is purified by column chromatography (silica gel, eluent: ethyl acetate:hexane, 1:3, v/v) to afford 5-fluoro-3-hydroxy-6-methoxy-quinoline-4-carbaldehyde as a yellow solid (40 mg, 42% yield).

reactant | 5-fluoro-4-hydroxymethyl-6-methoxy-quinolin-3-ol | 0.43 mmol, 120 mg, 1.0 eq | FC1=C2C(=C(C=NC2=CC=C1OC)O)CO | C11H10FNO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
solvent | acetone | 12 mL | CC(=O)C | C3H6O
catalyst | Manganese dioxide | 4.3 mmol, 299 mg, 10.0 eq | [O-2].[O-2].[Mn+4]
product | 5-fluoro-3-hydroxy-6-methoxy-quinoline-4-carbaldehyde | 40 mg, 42% yield | FC1=C2C(=C(C=NC2=CC=C1OC)O)C=O | C11H8FNO3
